### PR TITLE
Create PseudoRiemannian

### PR DESCRIPTION
**Pull request by or4nge19**
This PR is divided in 2 parts. Next is Riemannian Metric (with implementation)

### CODE REVIEW

**Comment by or4nge19** [comment]
after completing the PR I will ask for feedback/criticisms in Zulip

**Comment by or4nge19** [comment]
discussion here: 
https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/.28Pseudo.29.20Riemannian.20metric

and here:

https://leanprover.zulipchat.com/#narrow/channel/113489-new-members/topic/Don't.20understand.20TangentBundle.20.26.20sections

File: PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean [hunk 1]
```diff
@@ -0,0 +1,600 @@
...
+    [Module ℝ E] [FiniteDimensional ℝ E]
+    (q : QuadraticForm ℝ E) : ℕ := by classical
+  let P : (Fin (finrank ℝ E) → SignType) → Prop := fun w =>
+      QuadraticMap.Equivalent q (QuadraticMap.weightedSumSquares ℝ fun i => (w i : ℝ))
+  let h_exists : ∃ w, P w := QuadraticForm.equivalent_signType_weighted_sum_squared q
+  let w := Classical.choose h_exists
+  exact Finset.card (Finset.filter (fun i => w i = SignType.neg) Finset.univ)
+
+/-- The i-th standard basis vector has a 1 in the i-th position. -/
+lemma Pi.basisFun_apply_same {𝕜 ι : Type*} [Field 𝕜] [Fintype ι] [DecidableEq ι] (i : ι) :
```
Comment (jstoobysmith) [inline PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean]: Do we need this as a separate lemma?

Can't we get away with using `Pi.basisFun_apply` and `Pi.single_eq_same`. Likewise with `Pi.basisFun_apply_ne`.

File: PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean [hunk 2]
```diff
@@ -0,0 +1,600 @@
...
+    Classical.choose_spec h_exists
+  have h_no_neg : ∀ i, w i ≠ SignType.neg :=
+    QuadraticForm.posDef_no_neg_weights hq h_equiv
+  simp [Finset.card_eq_zero, Finset.filter_eq_empty_iff, h_no_neg]
+  exact fun ⦃x⦄ => h_no_neg x
+
+end QuadraticForm
+
+/-- Helper function to convert the metric tensor at `x` to a quadratic form. -/
+private def PseudoRiemannianMetricValToQuadraticForm
```
Comment (jstoobysmith) [inline PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean]: Lower case name e.g. `pseudoRiemannianMetricValToQuadraticForm` would be better here.

File: PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean [hunk 3]
```diff
@@ -0,0 +1,600 @@
...
+    [inst_norm_grp_E : NormedAddCommGroup E]
+    [inst_norm_sp_E : NormedSpace ℝ E]
+    [inst_findim_E : FiniteDimensional ℝ E]
+    [inst_top_H : TopologicalSpace H]
+    [inst_top_M : TopologicalSpace M]
+    [inst_chart_M : ChartedSpace H M]
+    [inst_chart_E : ChartedSpace H E]
+    (I : ModelWithCorners ℝ E H)
+    [inst_mani : IsManifold I (n + 1) M]
+    [inst_total_top : TopologicalSpace (TotalSpace E (TangentSpace I : M → Type _))]
```
Comment (jstoobysmith) [inline PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean]: Can we add a TODO item about these instances - or find a way to remove them.

File: PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean [hunk 4]
```diff
@@ -0,0 +1,600 @@
...
+variable {I : ModelWithCorners ℝ E H}
+variable [IsManifold I (n + 1) M]
+variable [TopologicalSpace (TotalSpace E (TangentSpace I : M → Type _))]
+variable [FiberBundle E (TangentSpace I : M → Type _)]
+variable [VectorBundle ℝ E (TangentSpace I : M → Type _)]
+variable [ContMDiffVectorBundle n E (TangentSpace I : M → Type _) I]
+variable [inst_tangent_findim : ∀ (x : M), FiniteDimensional ℝ (TangentSpace I x)]
+variable {g : PseudoRiemannianMetric E H M n I}
+
+instance TangentSpace.addCommGroup (x : M) : AddCommGroup (TangentSpace I x) := by infer_instance
```
Comment (jstoobysmith) [inline PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean]: I don't think any of these instances are needed, Lean can infer them itself (hence why you can prove using `infer_instance`)

File: PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean [hunk 5]
```diff
@@ -0,0 +1,600 @@
...
+def toQuadraticForm (g : PseudoRiemannianMetric E H M n I) (x : M) :
+    QuadraticForm ℝ (TangentSpace I x) :=
+  PseudoRiemannianMetricValToQuadraticForm g.val g.symm x
+
+-- Coercion from PseudoRiemannianMetric to its function representation.
+instance coeFunInst : CoeFun (PseudoRiemannianMetric E H M n I)
+        (fun _ => ∀ x : M, TangentSpace I x →L[ℝ] (TangentSpace I x →L[ℝ] ℝ)) where
+   coe g := g.val
+
+@[simp] lemma toBilinForm_apply (g : PseudoRiemannianMetric E H M n I) (x : M)
```
Comment (jstoobysmith) [inline PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean]: Can we do 
```
@[simp]
lemma ....
```
instead of `@[simp] lemma`.

File: PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean [hunk 6]
```diff
@@ -0,0 +1,600 @@
...
+  { toFun := λ v => g.val x v,
+    map_add' := λ v w => by simp only [ContinuousLinearMap.map_add],
+    map_smul' := λ a v => by simp only [ContinuousLinearMap.map_smul]; rfl }
+
+@[simp] lemma flat_apply (g : PseudoRiemannianMetric E H M n I) (x : M) (v w : TangentSpace I x) :
+  (flat g x v) w = g.val x v w := by rfl
+
+/-- The musical isomorphism as a continuous linear map. -/
+def flatL (g : PseudoRiemannianMetric E H M n I) (x : M) :
+    TangentSpace I x →L[ℝ] (TangentSpace I x →L[ℝ] ℝ) :=
```
Comment (jstoobysmith) [inline PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean]: definition would be cleaner (IMO) if used `where ...`

File: PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean [hunk 7]
```diff
@@ -0,0 +1,600 @@
...
+    (g : PseudoRiemannianMetric E H M n I) (x : M) (v : TangentSpace I x)
+    (ω : TangentSpace I x →L[ℝ] ℝ) :
+    g.val x v (g.sharpL x ω) = ω v := by
+  rw [g.symm' x v (g.sharpL x ω)]
+  rw [← flatL_apply g x (g.sharpL x ω)]
+  rw [flatL_apply_sharpL g x ω]
+
+end PseudoRiemannianMetric
+
+namespace PseudoRiemannianMetric
```
Comment (jstoobysmith) [inline PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean]: You end the namespace and then open it again. Why?

File: PhysLean/Mathematics/Geometry/Metric/Riemannian/Defs.lean [hunk 8]
```diff
@@ -0,0 +1,219 @@
+/-
+Copyright (c) 2025 Matteo Cipollina. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Matteo Cipollina
+-/
+
+import PhysLean.Mathematics.Geometry.Metric.PseudoRiemannian.Defs
+import Mathlib.LinearAlgebra.QuadraticForm.Dual
+
```
Comment (jstoobysmith) [inline PhysLean/Mathematics/Geometry/Metric/Riemannian/Defs.lean]: Can we remove this space. Maybe run #min_imports at the bottom of the file aswell to minimize the imports needed.

File: PhysLean/Mathematics/Geometry/Metric/Riemannian/Defs.lean [hunk 9]
```diff
@@ -0,0 +1,219 @@
...
+variable {M : Type w} [TopologicalSpace M] [ChartedSpace H M] [ChartedSpace H E]
+variable {I : ModelWithCorners ℝ E H} {n : ℕ∞}
+
+/-- A Riemannian metric of smoothness class `n` on a manifold `M` over `ℝ`.
+    This extends a pseudo-Riemannian metric with the positive definiteness condition. -/
+@[ext]
+structure RiemannianMetric
+  (I : ModelWithCorners ℝ E H) (n : ℕ∞) (M : Type w)
+  [TopologicalSpace M] [ChartedSpace H M] [IsManifold I (n + 1) M]
+  [inst_top : TopologicalSpace (TangentBundle I M)]
```
Comment (jstoobysmith) [inline PhysLean/Mathematics/Geometry/Metric/Riemannian/Defs.lean]: Same with these instances as with PseudoRiemannianMetric.

File: PhysLean/Mathematics/Geometry/Metric/Riemannian/Defs.lean [hunk 10]
```diff
@@ -0,0 +1,219 @@
...
+    (g.toQuadraticForm x).PosDef :=
+  λ v hv => g.pos_def x v hv
+
+/-- The application of a Riemannian metric's quadratic form to a vector. -/
+@[simp] lemma toQuadraticForm_apply (g : RiemannianMetric I n M) (x : M)
+    (v : TangentSpace I x) :
+    g.toQuadraticForm x v = g.toPseudoRiemannianMetric.val x v v := by
+  simp only [toQuadraticForm, PseudoRiemannianMetric.toQuadraticForm_apply]
+
+theorem riemannian_metric_negDim_zero (g : RiemannianMetric I n M) (x : M) :
```
Comment (jstoobysmith) [inline PhysLean/Mathematics/Geometry/Metric/Riemannian/Defs.lean]: Can we make this a lemma not a theorem.

File: PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean [hunk 11]
```diff
@@ -0,0 +1,600 @@
...
+    [inst_mani : IsManifold I (n + 1) M]
+    [inst_total_top : TopologicalSpace (TotalSpace E (TangentSpace I : M → Type _))]
+    [inst_fb : FiberBundle E (TangentSpace I : M → Type _)]
+    [inst_vb : VectorBundle ℝ E (TangentSpace I : M → Type _)]
+    [inst_cmvb : ContMDiffVectorBundle n E (TangentSpace I : M → Type _) I]
+    [inst_tangent_findim : ∀ (x : M), FiniteDimensional ℝ (TangentSpace I x)] :
+      Type (max u v w) where
+  /-- The metric tensor at each point `x : M`, represented as a continuous linear map
+      `TₓM →L[ℝ] (TₓM →L[ℝ] ℝ)`. Applying it twice, `(val x v) w`, yields `gₓ(v, w)`. -/
+  protected val : ∀ (x : M), TangentSpace I x →L[ℝ] (TangentSpace I x →L[ℝ] ℝ)
```
Comment (jstoobysmith) [inline PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean]: Do we need `protected` here?

File: PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean (hunk 1 above)
Comment (or4nge19) [reply PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean]: yes we can get away with them, they were needed for a previous approach (before restricting to R. before was RCLike) and likely needed later but not needed now

File: PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean (hunk 4 above)
Comment (or4nge19) [reply PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean]: yes they can be removed, they served as a reminder of the other pre-existing ones

File: PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean (hunk 7 above)
Comment (or4nge19) [reply PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean]: unsure whether this would go here on in a separate file Riemannian/Cotangent.lean

File: PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean (hunk 4 above)
Comment (jstoobysmith) [reply PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean]: I think leaving them in will lead to problems with instances not being equivalent to one another in the future.

File: PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean (hunk 11 above)
Comment (or4nge19) [reply PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean]: not sure, but there may be some ambiguity with other namespaces since 'val', etc.  are pretty generic

File: PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean (hunk 7 above)
Comment (jstoobysmith) [reply PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean]: When in doubt I think its best to separate the files

File: PhysLean/Mathematics/Geometry/Metric/Riemannian/Defs.lean (hunk 9 above)
Comment (or4nge19) [reply PhysLean/Mathematics/Geometry/Metric/Riemannian/Defs.lean]: yes, I'd keep it as a TODO for now but can be streamlined....

File: PhysLean/Mathematics/Geometry/Metric/Riemannian/Defs.lean (hunk 8 above)
Comment (or4nge19) [reply PhysLean/Mathematics/Geometry/Metric/Riemannian/Defs.lean]: yes, I forgot to update it after running #min_imports on PseudoRiemannian :)

File: PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean (hunk 3 above)
Comment (or4nge19) [reply PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean]: this is definitely a TODO, though I see that API can be developed from here with minimal hassle

Comment (jstoobysmith) [reply PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean]: I think they can just be removed though: see [here](https://live.lean-lang.org/#codez=PQWgUAwg9gDgngJwJYHMAWAXABACgMYCUWATAAzECsWAsgIYYYCmUWESMUANp0gHa0A6LAEFuWZOgwBncYymMEAN0YATAWABKjTo1ryVWAK68VCkTFp40jEgNJYeeRr3lY9WU1LzIARqqx8WBjWWABmSDpYADIAkhAAogByAMrx6sKGwVAIUgBcNPRMLGwc3Hy0YCDAYGBIALYcCNh0wTw+AsL8nHBSSFICMby8CgAKCFAqhngYyRZOAgBCekh4tQ3ZzfRobR1dPX0CGhBRSADWjAJRjHV1emuNm61I7QDizHWMGAhwAnS8SKEuGpqAAxAAiCiQigEENCUnuGwKT1e70+31+tH+gM4agAaoxptkFsYVDpFstVvUHkjts9LnxdAhRChGD4EIIFhEGbQECDsnUBGNYAoMEg5AimjSdidhjzmaz2QIAIqGWgqdmivB8hACrS0TgSx609oAFVgXCgKB+USgeH13WgLgwmIw5N6qxqoAAhGAAMRYEbyQwqKAgDRi25DJCYmholYyKC8LDJOpQKDBApYoHwsAmtB9MIRGyAnX6pAALzkWBgQZDYYjmP+MY+X3jWETWCkqfTaCwkYB2bcJiwcmdPh4UmsMmCjCQCCwPgpYBg4xgIrF/RqwmrtdD4eujejSZbyDwI4AjoZ2DJaH3MQOcVgAO5IDO3rtp1pwLCKHlwPgoAANFgvCJiApgssMGqMMBUhwDccarD4XKyvOJZ1O2oRYAAVHgiZSM6vDYHwpgAB7Ye2Sa6FYQSYpB2BSHMMFYJBChluWAFBCEeG8E4MDYFAWExnwUHLuMkzTJ2TFBCweCGEo/iMZYchCHmNgkYwpFYNYCA2LpoQKNOLAAAYqmqGorNqArDCgYL1MZwEzh49TOL0iZgIJbh3qR9T6iBjAoPQUI2KY4T/EwnaGD4SnzDUvr+nQgSwnwr5IPhNQUcZgaMMGUD7pGTa8NQiFYPEWAABI0CBWAxMZ+TbgRCBTBg8l6YwK5yM4oq8CgXnGRAAB6vDGTuOV1vlh7NohYBYJRXn9tiBjGdQI2pqY3D+B2xk4PEwHlQQI0vhma3aM+r69nhCBQTIxm1UIMTYDxvQEQmQlhLQdQRHAM2YSBYEQc4bFMLB8EniswE8d1hhQIYMjITwqFhPyN0oIAyQQjR21G9oR9FScpWDGSaqMrYBP2/t8nH9UNxkgB+PbdGdGbGaRI2YgYaC0IonG3pwtr2t+T2EdgNlBcozkfC4aVJjgxk2XZdTGQQ6izWpfYTKdMU2MZ8SrbD2B+IW4WMOBLmS4m+rAWzXE2AtQIEytfZ6wuWuDQA3rwADUACMAC+I108E6hgJl2W5RNUaYsVrZ4AIoScPQ8SXlCLFYCz+SqwARHUsMrH5fRQKmCAwPmXYZ2E4wYU5ONdXjThuNgzPGT9GAsK+MiTH5mvAbpHXyERnFOXaoH/HanABFIBfZMXfQYSRUz+D435OWDMcZQTochuHhVR6eAiTjyMCJ1eigp2nWCq3wyg5DYnlOXH9Dj5PRcl3UwG3DAMCcaEFfNyEHdj5rBclhTgyWtrRHqNdNZBxDruLeR4d4rAEC3My6ogpan5KfOq58QiXnMmgpGOoCYn0AGWELFUY4EUMBRQB03BSAnngaMTAVA/SOtjEIK967VigHwBuLN1BVBqPIaYUsAywIbBHIq00wDDzwg0TItBxw2CEaKdyYBjDBWvkYH8z4ajCiTMSEwkRkifCwCCPg8hsAgmMMIjsZjOBMHnNQCYhhIhmlKJab8jooYwykDKRkdAYAeTXEmLwwoDB/AfAYAxpIbB+J5AErAYJVQGmkR9OQ0kUEWXQTqGo5NoyKKwK7AA0lgdOcA1zYR9lgAA2mY7QBgikAF0alxIQAAeQQKYecTTPQgBANgmwItRRixUKbNy0tsgBBMJpIgnlby4NQZqAhs9px/zGVLH6s05neV8mPIZwUPCMDCq+JRUUoFYAETIguMB5EFNCv5Wy9RCllTKRUqp1ThAqBUNAG4LxxiGBgKVRpmyalOMmJEQAuIRApqWYo28tXJSz8lC+IwLZqzRwOeUpWBMloKslgZFRB8iAFRCUpABeH6i8QV4HjnQ3OBo0UOBMSMLFOBYW4DCuyXgICCVYEAEmEyZUC8BNOUxgRB+VCkBbkUlYRjDPiwKSgAfCChlOLNQBIEEfKE+oa6YpwKqlY6qnyzkkKoZIhg6jJFwbpGQULQiyqQPKhVuAnwBCxRCggBAQU6GwGgAA+ppPo0gsWAGAiZ8wFmUuqldi1UizLL8gEIwJOv4dBEV9b0FAQqRW+qNagTAqg03mrTVa/w54vUmMjdKiANL3T6gEFYNMrg/UBpeiCzSlhLHmM+HWnkBhWWdtdOEexZgcB2qTA6xVcrx0CozcKtcAgbJEFhRYgQ6jqG9P6RfEAGYCJsx7UA56P4CQt3nBzG8WAvZTLAUgLdvYOC9BUbwIQAidA3FvCMJAAhFzPSsbwX1tAP7dDTWkwpgBWDcADq7WBACdwFi2djBKkwrFI+cDzTak8JFVBlDEIGEqAUToROGHcAOvyJBwlP0cDvs/csKQP6sDgag0QB1U6L1RspbNXoDRKIM2qRRr9fQf1/oA3AcNH7eg9R0P688QGPjArAKADdIRr3bsIjhzp+6CzKEJCe9w9hAj2i4feqWMgABWWBAAGRAEJ91QX23ADB+3j1HjACZgIB4YoGIPQdeXB95dSkNgZQ7CjA6HIOYYJEgHDij8PBcI1gEzxGiA4F7PkEz5mkCkfRTxqjNG6MkddSZ6V9gWPfTY1STj35uN2cy45/9zmhO2b3gBcTibfWCV9a5tAMm5OmMme+ZTe77OHs05e28OaTUGCkOa36Uhi1SGAomBmiYbAONnkmJy42Vl/V4JWcYlmwDWdvPqvAhrjV5pUGai103fX2d9Rp49zyYMivgx8r5Py6h/JhoClFILqlgpcTYZFzTXYjcwDIfIbKR18E5dy0qYr8U+xBa7IjpjAjg94JD/F0OqkUKxWDjlmIofxBh+6kFCWT75EAABEMWqExflQELCeXXUziTBe7QrhSBpbRQdo7uamFnctaqa16OgdBpPtKoXMgiPStY52Erc2yuc//QIIXprzV855HIJz3RUXiBdahlwXa1sSbTQ19SWuADt0uOOy5qWgE+SBgKAGTCXSElGAPWYtnTgzXhiwXd4b93ZuplfBYCZ312kjMgvY4Cq31SbeU9p61gKoe34uN9VtqA3vk9Nb9z9c3EfSsIb166D4dRfWruAqBDAvqviGEYIb0I+p5Dp495nlxSem+SdT7NhAabtChFJgymIUh4gNEC7HbI9pfUAlCB1vpWAADq1gkzzJjVk5Z48LzH21URUBw3jtMMihhTyU3+dyD72i/ZYsxdYEutajgw4W4DePTIJ8OlFshHQrRc4Mhz82GTdX/oFyrNrgbMbJs1d8J8GgeB1cQDf8bBXYXlz4Ht3lPlvkC5Xt/kPsUMftIUgV4dMV8gDs8VkUqlAdsdkdccuV0cCc+Vp1M01w4cGUEsJNj4sV5cYANUk1N9sBdVWDFdd9ldztj8bUZUx1HVnVXV8h3UPV4dEcccIc8dKCCBMd8wsUXUp1khBVYN50Ap2dZpQ1SdSoqdzN7BAByIiwExRPgAB4sACtJcitGVsAsIo0q09Aa1OA600BuE64m0k0fpvUfw00MADBQcyC5CKCeV+UoUo1R1qcJ0AQYiGcF9z0RxOBWdfCTFSdpVQg95QZ/CCJmFZoOYxYbd48U8FAWB8gT4jCyUFw7DZoeFxhtIQVCibB8gsIRcwhrDqjF5tdrctcCjOYWiOiR1sibhcjAiiBMjOjCsejqlAAEwi4j6D6O0gGKxUUACIMHyy6NqLRQQB13mKyOq0AzghuA12/DWLyKWNmjbUkkTiQU5VWQLBwHflKIaNCE9QZWaNWPWNdU2OmN2JqWCEWIAG5xA45w8ZdeAuNHdVB55XdZthgSiO8xiVBmkH5AT4R+iijJMbIsVzCsArCbCaimiVjrA8CzDtFpUeCldTsVdpt0cR1ZU8snUcAXVYt8UPVkSyVlVo08E1)

File: PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean (hunk 11 above)
Comment (jstoobysmith) [reply PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean]: I think this would be ok - I've never used protected before and have defined structures with `val`, and have never run into problems.

File: PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean (hunk 3 above)
Comment (jstoobysmith) [reply PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean]: Don't think my link works, but if you just remove the instances related to  tangent spaces in this definition everything works (at least for me).

File: PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean (hunk 11 above)
Comment (or4nge19) [reply PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean]: ok, will remove it

**Comment by jstoobysmith** [comment]
I tried to download your branch to experiment with things - but I think it is still on an older version of lean and mathlib
(which might be why the instances are needed). 

If you want to update I think you can: 
1. merge Master into this branch. 
2. run:  
```
rm -rf .lake  ;  lake update ;   lake exe cache get ;   lake build 
```
(which might take ~20min depending on your computer)

**Comment by jstoobysmith** [comment]
I've dealt with the instances - let me know if you strongly disagree with my changes. Won't make any more changes for the time-being.

File: PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean [hunk 12]
```diff
@@ -0,0 +1,584 @@
...
+
+lemma nondegenerate' (x : M) (v : TangentSpace I x)
+    (h : ∀ w : TangentSpace I x, (g.val x v) w = 0) : v = 0 := g.nondegenerate x v h
+
+lemma smooth' (x₀ : M) (v w : E) :
+    ContDiffWithinAt ℝ n (fun y => g.val ((extChartAt I x₀).symm y)
+    (mfderiv I I ((extChartAt I x₀).symm) y v) (mfderiv I I ((extChartAt I x₀).symm) y w))
+    ((extChartAt I x₀).target) ((extChartAt I x₀) x₀) := g.smooth_in_charts' x₀ v w
+
+lemma negDim_isLocallyConstant' : IsLocallyConstant (fun x => (toQuadraticForm g x).negDim) :=
```
Comment (jstoobysmith) [inline PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean]: These primed results are exactly equivalent to their unprimed versions, and therefore are not needed (everywhere they appear they can be replaced by the unprimed version).

File: PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean [hunk 13]
```diff
@@ -0,0 +1,584 @@
...
+      map_add' := LinearMap.map_add φ
+      map_smul' := LinearMap.map_smul φ
+      cont := φ.continuous_of_finiteDimensional }
+  map_add' f g := rfl
+  map_smul' c f := rfl
+  left_inv f := by ext; rfl
+  right_inv φ := rfl
+
+/-- Helper theorem: in finite dimensions, every linear map is continuous -/
+theorem continuous_linear_map_of_finite_dimension {𝕜 E : Type*} [NontriviallyNormedField 𝕜]
```
Comment (jstoobysmith) [inline PhysLean/Mathematics/Geometry/Metric/PseudoRiemannian/Defs.lean]: Everywhere this theorem appears one could instead use `LinearMap.continuous_of_finiteDimensional` directly.

File: PhysLean/QuantumMechanics/OneDimension/HarmonicOscillator/Completeness.lean
Comment (idontgetoutmuch) [inline PhysLean/QuantumMechanics/OneDimension/HarmonicOscillator/Completeness.lean:1]: I don't understand what this has to do with Riemannian metrics.

Comment (jstoobysmith) [reply PhysLean/QuantumMechanics/OneDimension/HarmonicOscillator/Completeness.lean:1]: @or4nge19 I think we can probably revert this change, right? It is probably overhang from the different versions of Mathlib. 

But yes @idontgetoutmuch - this has nothing to do with Riemannian metrics :).

Comment (or4nge19) [reply PhysLean/QuantumMechanics/OneDimension/HarmonicOscillator/Completeness.lean:1]: yes, it's because i forgot to update to the latest mathlib version. I had t replace some deprecated lemmas to make the PhysLean.lean main file compile with the Riemannian PR

Comment (or4nge19) [reply PhysLean/QuantumMechanics/OneDimension/HarmonicOscillator/Completeness.lean:1]: will revert!

**Comment by jstoobysmith** [comment]
I fixed the reverts. 

Basically I ran locally the following commands: 

```
git checkout Master -- ./PhysLean/StringTheory/FTheory/SU5U1/PhenoConstraints/Basic.lean
```
on the affected files. 


The following comments still need addressing:

- [x] https://github.com/HEPLean/PhysLean/pull/501#discussion_r2066411976
- [x] https://github.com/HEPLean/PhysLean/pull/501#discussion_r2066415287
- [x] https://github.com/HEPLean/PhysLean/pull/501#discussion_r2066420972
- [x] https://github.com/HEPLean/PhysLean/pull/501#discussion_r2066426916
- [x] https://github.com/HEPLean/PhysLean/pull/501#discussion_r2066430425
- [x] https://github.com/HEPLean/PhysLean/pull/501#discussion_r2066434781
- [x] https://github.com/HEPLean/PhysLean/pull/501#discussion_r2066439828
- [x] https://github.com/HEPLean/PhysLean/pull/501#discussion_r2066449485

**Comment by or4nge19** [comment]
Thanks!

**Comment by or4nge19** [comment]
have added PseudoRiemannian/Chart.lean and relative submodules. This defines `chartMetric`, which expresses a pseudo-Riemannian metric in local chart coordinates, and proves its transformation properties under coordinate changes. Next file in the PseudoRiemannian namespace will prove the equivalence: smooth_in_charts_iff_contDiffOn
